Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
left facial droop 
 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
Neurology Resident Stroke Consult Note  

 Neurology at 5 minutes  
 Time/Date the patient was last known well:  10:30 ___ 
 ___ Stroke Scale Score:  
 t-PA Administration  
 [] Yes - Time given:  
 [x] No - Reason t-PA was not given/considered:  patient on 
eliquis and low  NIHSS 

1a. Level of Consciousness - 0 
 1b. LOC Questions -  0
 1c. LOC Commands -  0
 2. Best Gaze -  0
 3. Visual Fields - 0 
 4. Facial Palsy -  0
 5a. Motor arm, left -  0
 5b. Motor arm, right -  0
 6a. Motor leg, left -  0
 6b. Motor leg, right -  0
 7. Limb Ataxia -  0
 8. Sensory -  0
 9. Language -  1
 10. Dysarthria -  0
 11. Extinction and Neglect -  0

 HPI: Mr. ___ is a ___ gentleman with a past medical 
history significant for obesity, moderate obstructive sleep 
apnea, hypertension, hyperlipidemia, atrial fibrillation on 
Eliquis, prior MI when patient was ___ years old, and 
degenerative disc disease in the neck who presents as a code 
stroke as a transfer from an outside hospital.

The patient was last known well at 10:30 ___ on ___.  The patient was apparently in his usual state of health 
went was watching TV downstairs in the living room.  His wife 
had gone up to sleep in the bedroom.  At this time, the patient 
noticed while he was walking in the living room that he was 
slightly imbalanced and had difficulty walking.  He climbed up 
the stairs an hour later at 11:30 ___ to wake of his wife.  When 
he woke her up, she noted that he was having difficulty getting 
the words out and expressing himself.  At this time, they called 
EMS who took him to the outside hospital.  Patient states that 
he slowly started to improve and feel better with no feelings of 
weakness.  He does have some difficulty expressing himself 
however.  Patient has never had any neurologic symptoms such as 
this in the past.  He is on Eliquis for atrial fibrillation, 
states that he typically does not miss any doses but may have 
forgotten to take a dose a day before yesterday as he fell 
asleep in the evening while watching TV.   Patient states that 
his sister recently had a stroke and the cause was likely due to 
new onset atrial fibrillation.

Patient otherwise has been quite healthy, he is seen at ___ 
___ as a sleep patient for his 
moderate obstructive sleep apnea.  The patient is semiretired 
and works in financial analysis.

 On review of systems, the patient endorses: Difficulty 
speaking.
 On review of systems, the patient denies the following:  
 - Neurologic: headache, confusion,  difficulty understanding 
speech, vision loss, diplopia, vertigo, dysarthria, dysphagia, 
focal limb weakness, sensory loss, gait imbalance.  
 - Constitutional: fever, rigors, night sweats, unintentional 
weight loss.  
 - Cardiovascular: chest pain, palpitations, lightheadedness.  
 - Gastrointestinal: nausea, emesis, diarrhea, constipation.  
 - Genitourinary: dysuria, urinary urgency, urinary 
incontinence.  
 - Ear, Nose, Throat: tinnitus, hearing loss, rhinorrhea, 
odynophagia.  

 
Past Medical History:
Atrial fibrillation 

 
Social History:
___
Family History:
Father passed away in his ___ from coronary artery disease.  
Sister with atrial fibrillation and recent stroke. 

 
Physical Exam:
Admission Physical Examination:  
 VS T: Afebrile HR: 72 BP: 131/77 RR: 18 SaO2: 98%
 - General/Constitutional: Lying in bed comfortably, 
well-appearing gentleman.
 - Eyes: Round, regular pupils. No conjunctival icterus, no 
injection.  
 - Ear, Nose, Throat: No oropharyngeal lesions. Normal 
appearance of the tongue.  
 - Neck: No meningismus. No carotid, vertebral, or subclavian 
bruits appreciated. No lymphadenopathy.  
 - Musculoskeletal: Range of motion with neck rotation full 
bilaterally. No focal spinal tenderness.  
 - Skin: No rashes. No concerning lesions appreciated.  
 - Cardiovascular: Regular rate. Regular rhythm. No murmurs, 
rubs, or gallops appreciated. Normal distal pulses.  
 - Respiratory: Lungs clear to auscultation bilaterally. No 
crackles. No wheezes.  
 - Gastrointestinal: Soft. Nontender. Nondistended.  
 
 Neurologic Examination:  
 - Mental Status - Awake, alert, oriented x 3. Attention to 
examiner easily attained and maintained. Concentration 
maintained when recalling months backwards.  Cannot recall a 
fluid history but is able to express pertinent details.  Patient 
demonstrates intact verbal comprehension, and intact repetition, 
however he is not fluent. Content of speech demonstrates intact 
naming (high and low frequency).  Patient makes mild errors 
while reading.  Normal prosody. No dysarthria. Verbal 
registration and recall ___. No apraxia. No evidence of 
hemineglect. No left-right agnosia. 
 
 - Cranial Nerves - [II] PERRL 3->2 brisk. VF full to number 
counting. 
[III, IV, VI] EOMI, no nystagmus. [V] V1-V3 without deficits to 
light touch bilaterally. [VII] No facial movement asymmetry with 
forced eyelid closure or volitional smile. [VIII] Hearing intact 
to finger rub bilaterally. [IX, X] Palate elevation symmetric. 
[XI] SCM/Trapezius strength ___ bilaterally. [XII] Tongue 
midline.  

 - Motor - Normal bulk and tone. No pronation, no drift. No 
orbiting with arm roll. No tremor or asterixis.  
 [Delt] [Bic] [Tri] [ECR] [IO] [IP] [Quad] [Ham] [TA] [Gas] 
[___]  
 [C5] [C5] [C7] [C6] [T1] [L2] [L3] [L5] [L4] [S1] [L5]  
 L ___ 5 5  
 R ___ 5 5  

 - Sensory - No deficits to light touch, pinprick, or 
proprioception bilaterally. No extinction to double simultaneous 
tactile stimulation.  
 - Reflexes  
 =[Bic] [Tri] [___] [Quad] [Gastroc]  
 L ___ 2 2  
 R ___ 2 2  
 Plantar response flexor bilaterally.  
 - Coordination - No dysmetria with finger to nose or heel-shin 
testing. Good speed and intact cadence with rapid alternating 
movements.  
 - Gait -deferred

=
=
=
=
=
=
=
=
=
=
=
=
=
=
=
=
================================================================
DISCHARGE PHYSICAL EXAM:  
Vitals:
Tm: 97.6
BP: 137-152/98-101
HR: 112-116

General: Comfortable in bed
HEENT: NC/AT  
Musculoskeletal: Range of motion with neck rotation full 
bilaterally. No focal spinal tenderness.   
Lungs: Breathing comfortably on room air
Ext: symmetric, no edema
Skin: No rashes or lesions. 

Neuro:  
MS- Awake, alert, oriented x3. Speech slow but fluent without 
paraphasias. Follows appendicular commands. Verbal functioning 
intact (able to list 11 words beginning with 'f' in 60 seconds). 
Intact high and low frequency naming.  Mild errors when reading 
but no significant alexia.  

CN- 
[II] PERRL 3->2, visual fields intact
[III, IV, VI] EOMI, no nystagmus
[V] V1-V3 Facial sensation intact.
[VII] Mild lower left facial droop. Able to maintain forced 
eyelid closure. Can smile and clench jaw.
[VIII] Hearing intact to finger rub bilaterally
[IX, X] Palate elevation symmetric
[XI] SCM/Trapezius strength ___ bilaterally
[XII] Tongue protrusion midline

Motor-   
Normal tone and bulk. No noted tremor or asterixis. 
Strength: 
  Delt Bic Tri WrE FFl FE IP  TA Gas 
L  ___   ___   4+  5   5
R  ___   ___   ___

Sensory- Intact light touch sensation and propioception in upper 
and lower extremities

 Reflexes  
 =[Bic] [Tri] [___] [Quad] [Gastroc]  
 L 2     2      2      2      2  
 R 2     2      2      2      2  
 Plantar response flexor bilaterally.  

 - Coordination - No dysmetria or dysdiadochokinesia with finger 
to nose or heel-shin testing. Good speed and intact cadence with 
rapid alternating movements.  
 - Gait -ambulates to bathroom with normal posture and balance

 
Pertinent Results:
___ 09:40AM BLOOD WBC-8.9 RBC-4.79 Hgb-14.7 Hct-46.1 MCV-96 
MCH-30.7 MCHC-31.9* RDW-13.0 RDWSD-46.0 Plt ___
___ 09:40AM BLOOD ___ PTT-35.9 ___
___ 09:40AM BLOOD Glucose-112* UreaN-18 Creat-0.8 Na-139 
K-4.7 Cl-103 HCO3-26 AnGap-15
___ 09:40AM BLOOD ALT-31 AST-27 LD(LDH)-179 AlkPhos-45 
TotBili-0.4
___ 09:40AM BLOOD cTropnT-<0.01
___ 09:40AM BLOOD %HbA1c-5.7 eAG-117
___ 09:40AM BLOOD Triglyc-151* HDL-37 CHOL/HD-3.4 
LDLcalc-58
___ 09:40AM BLOOD TSH-1.8

Imaging:

MRI brain w/o contrast (prelim): stroke in right prefrontal 
cortex 

___ Portable AP chest:  
1. Mild cardiomegaly without pulmonary edema. 
2. No acute cardiopulmonary abnormality. 

___ CT Head, and CTA head and neck: from OSH read as negative. 


CTA head and neck done at outside hospital does not show any 
major vessel occlusions, however there is some mild intracranial 
atherosclerosis of the internal carotids.

 
Brief Hospital Course:
Mr. ___  is a ___ left handed gentleman with atrial 
fibrillation on ___ transferred from OSH for evaluation of 
nonfluent aphasia and mild left facial droop.  Initial ___ score 
was 1 for a nonfluent aphasia only.  Given that the patient is 
currently on an anticoagulant as well scoring low on NIHSS, 
patient was not a candidate for TPA at the outside hospital. The 
patient endorses some Eliquis noncompliance, particularly 
missing night doses. The most likely etiology for his symptoms 
is thus cardioembolic from his a-fib in setting of Apixaban 
noncompliance. R/o atherosclerotic narrowing given his obesity 
and hypercholesterolemia however NCHCT and CTA at OSH negative 
for significant stenosis.

Hospital course by system 
Neurology:
-MRI without contrast shows stroke in right prefrontal cortex 
-Continued Eliquis for atrial fibrillation. Discussed with 
patient and wife the importance of anticoagulation compliance.
-Continued simvastatin 40 mg daily at this time.
-Stroke labs obtained: 1dl 179, a1c 5.7, tsh 1.8
-Speech consulted who recommended d/c home with outpt speech 
therapy
  

Cardiology:
- Monitored on telemetry
- Continued home metoprolol 25mg BID
- Continue home diltiazem XR 240mg BID
- Captopril held to allow for BP autoregulation, SBP goal <180
- TTE showed mild regional left ventricular systolic 
dysfunction, c/w CAD. No ASD/PFO seen. No LV thrombus.

Pulmonology:
-Pt on BIPAP at home 

ID: No suspicion for infectious process. 
- chest x-ray w/o consolidation.
- UA with moderate blood, possibly related to anticoagulation. 
Denies history of hematuria. Can follow up w/ PCP.

PPX:
-Pneumoboots for DVT prophylaxis, on Eliquis.

Code: full code 

Dispo: Home with outpatient Speech therapy 

Transitional issues:
- Encourage importance of Apixaban compliance 
- Patient non complaint with Captopril dosing as well  
- PCP to monitor hematuria as outpatient 
- F/u Neurology and Cardiology and PCP as outpatient 

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack
1. Dysphagia screening before any PO intake? () Yes, confirmed 
done - () Not confirmed – () No
2. DVT Prophylaxis administered? () Yes - () No
3. Antithrombotic therapy administered by end of hospital day 2? 
() Yes - () No
4. LDL documented? () Yes (LDL = ) - () No
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 100) () Yes - () No [if LDL 
>100, reason not given: ]
6. Smoking cessation counseling given? () Yes - () No [reason () 
non-smoker - () unable to participate]
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? () Yes - () No
8. Assessment for rehabilitation or rehab services considered? 
() Yes - () No
9. Discharged on statin therapy? () Yes - () No [if LDL >100, 
reason not given: ]
10. Discharged on antithrombotic therapy? () Yes [Type: () 
Antiplatelet - () Anticoagulation] - () No
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - () N/A

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Metoprolol Tartrate 25 mg PO BID 
2. Apixaban 5 mg PO BID 
3. Allopurinol ___ mg PO DAILY 
4. Simvastatin 40 mg PO QPM 
5. Diltiazem Extended-Release 240 mg PO BID 
6. Captopril 12.5 mg PO TID 
7. MetroNIDAZOLE 500 mg PO TID 

 
Discharge Medications:
1.  Allopurinol ___ mg PO DAILY  
2.  Apixaban 5 mg PO BID  
3.  Captopril 12.5 mg PO TID  
4.  Diltiazem Extended-Release 240 mg PO BID  
5.  Metoprolol Tartrate 25 mg PO BID  
6.  Simvastatin 40 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute Ischemic Stroke

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were hospitalized due to symptoms of left facial droop 
resulting from an ACUTE ISCHEMIC STROKE, a condition where a 
blood vessel providing oxygen and nutrients to the brain is 
blocked by a clot. The brain is the part of your body that 
controls and directs all the other parts of your body, so damage 
to the brain from being deprived of its blood supply can result 
in a variety of symptoms.

Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:
Atrial fibrillation 
Hyperlipidemia 
Hypertension 

We did not make any changes to your medication regimen. We 
suspect your stroke occurred in the setting of missed Apixaban 
dosed. We stress that you take your medication consistently and 
as prescribed in order to decrease your risk of future stroke. 

Please followup with Neurology and your primary care physician.

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:
- Sudden partial or complete loss of vision
- Sudden loss of the ability to speak words from your mouth
- Sudden loss of the ability to understand others speaking to 
you
- Sudden weakness of one side of the body
- Sudden drooping of one side of the face
- Sudden loss of sensation of one side of the body

Sincerely,
Your ___ Neurology Team
 
Followup Instructions:
___